US05225532
c) Boc-Gly-L-Pro-OH
1.4 ml (11 mmol) of N-methylmorpholine are added to 1.15 g (10 mmol) of proline in 50 ml of DMF. The mixture is cooled with an ice bath, 3.06 g (10 mmol) of Boc-Gly-OSu are then added and the pH is adjusted to between 6 and 7 throughout the reaction (14 h) by successive additions of small amounts of N-methylmorpholine (this substance is used as a proton acceptor). The DMF is evaporated off and the evaporation residue is taken up with AcOEt; after precipitation in petroleum ether and then filtration, the expected product is collected.

reactant | N-methylmorpholine | 11 mmol, 1.4 ml | CN1CCOCC1 | C5H11NO
reactant | proline | 10 mmol, 1.15 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Boc-Gly-OSu | 10 mmol, 3.06 g | N(CC(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C11H16N2O6
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Boc-Gly-L-Pro-OH | N(CC(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C12H20N2O5
